US09056885B2
7-methoxytetralone oxime
To a solution of 7-methoxytetralone (15 g) in MeOH (175 mL), NH2OH (50% in H2O, 15.7 mL) and AcOH (4 mL) was added. After stirring for 1 hour, the solution was concentrated until a solid began to appear. The reaction was poured into dilute aqueous NaHCO3 (500 mL), and the resulting solid was filtered to provide the title compound (17.8 g): 1H NMR (DMSO-d6) δ 11.08 (s, 1H), 7.35 (s, 1H), 7.08 (d, 1H), 6.84 (d, 1H), 3.71 (s, 3H), 2.62-2.49 (m, 4H), 1.77-1.64 (m, 2H).

reactant | 7-methoxytetralone | 15 g | COC1=CC=C2CCCC(C2=C1)=O | C11H12O2
reactant | NH2OH | 15.7 mL | NO | H3NO
solvent | MeOH | 175 mL | CO | CH4O
solvent | AcOH | 4 mL | CC(=O)O | C2H4O2
product | 7-methoxytetralone oxime | 17.8 g | COC1=CC=C2CCCC(C2=C1)=NO | C11H13NO2
